US05942379
Synthesis of the Compound (4-Methyl-3-oxo-1-phenylpyrazolidin-4-yl)methyl 2-sulphobenzoate (Compound 12)
To a suspension of 4-methyl-4-hydroxymethyl-1-phenyl-3-pyrazolidinone (dimezone-S) (10 g, 48.5 mmol) in dry acetonitrile (200 ml), was added 2-sulfobenzoic acid cyclic anhydride (8.9 g, 48.5 mmol) in a single portion at room temperature with stirring. The reaction mixture was heated to reflux under nitrogen until complete dissolution was observed. The reflux was continued for 24 hours and the mixture was cooled in an ice/water bath for 2 hours. A solid precipitate was obtained which was recovered by filtration and washed with ice cooled acetonitrile. After drying under vacuum, 17.9 g (95%) of 4-methyl-3-oxo-1-phenyl-pyrazolidin-4-yl)methyl 2-sulfobenzoate (Compound II) were isolated as an off-white solid.

reactant | 4-methyl-4-hydroxymethyl-1-phenyl-3-pyrazolidinone | 48.5 mmol, 10 g | CC1(C(NN(C1)C1=CC=CC=C1)=O)CO | C11H14N2O2
reactant | 2-sulfobenzoic acid cyclic anhydride | 48.5 mmol, 8.9 g | C1=CC=C2C(=C1)C(=O)OS2(=O)=O | C7H4O4S
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | (4-Methyl-3-oxo-1-phenylpyrazolidin-4-yl)methyl 2-sulphobenzoate | S(=O)(=O)(O)C1=C(C(=O)OCC2(C(NN(C2)C2=CC=CC=C2)=O)C)C=CC=C1 | C18H18N2O6S
